US07728031B2
(3aR,6aR)-ethyl 1-(4′-(6-oxopyridazin-1(6H)-yl)biphenyl-4-yl)hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate
2-(4′-Bromobiphenyl-4-yl)pyridazin-3(2H)-one (1.92 g, 5.86 mmol), palladium(II) acetate (0.158 g, 0.234 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (0.407 g, 0.703 mmol) and cesium carbonate (3.06 g, 9.38 mmol) were suspended in 25 mL of THF. A solution of (3aR,6aR)-ethyl hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate in 10 mL of THF was added and the mixture was heated at 70° C. under N2 for 20 hours. The mixture was allowed to cool to ambient temperature, diluted with 70 mL of EtOAc, and filtered through a ¼ pad of Celite®. The Celite® pad was washed with an additional 70 mL of EtOAc and the filtrate was absorbed on silica gel and chromatographed (eluting with 0-40% EtOAc in DCM) to provide the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 7.91 (dd, J=3.7, 1.7 Hz, 1H), 7.64 (s, 4H), 7.53 (d, J=8.8 Hz, 2H), 7.25 (dd, J=9.8, 3.4 Hz, 1H), 7.07 (dd, J=9.5, 1.7 Hz, 1H), 6.64 (d, J=8.5 Hz, 2H), 4.20-4.32 (m, 1H), 4.12 (q, J=7.5 Hz, 2H), 3.70-3.81(m, 1H), 3.59-3.69 (m, 2H), 3.48-3.58 (m, 1H), 3.36-3.48 (m, 2H), 2.99-3.10 (m, 1H), 2.20 (ddd, J=13.0, 7.3 Hz, 1H), 1.95 (ddd, J=12.9, 6.4 Hz, 1H), 1.24 (t, J=7.1 Hz, 3H). MS (ESI+) m/z 431(M+H)+.

reactant | 2-(4′-Bromobiphenyl-4-yl)pyridazin-3(2H)-one | 5.86 mmol, 1.92 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)N1N=CC=CC1=O | C16H11BrN2O
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.703 mmol, 0.407 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 9.38 mmol, 3.06 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3aR,6aR)-ethyl hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate | N1[C@@H]2[C@H](CC1)CN(C2)C(=O)OCC | C9H16N2O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 0.234 mmol, 0.158 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3aR,6aR)-ethyl 1-(4′-(6-oxopyridazin-1(6H)-yl)biphenyl-4-yl)hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate | O=C1C=CC=NN1C1=CC=C(C=C1)C1=CC=C(C=C1)N1[C@@H]2[C@H](CC1)CN(C2)C(=O)OCC | C25H26N4O3
